US06100260
Biphenyl-4-yl-dimethoxy-acetic acid methyl ester
A mixture of biphenyl-4-yl-oxo-acetic acid methyl ester (A. T. Jeffries, et al., J. Org. Chem., 46, 2885(1981)) (10 g), triethyl orthoformate (43 ml), methanol (60 ml) and conc. sulfuric acid (3 ml) was heated under reflux for 8.5 hours under a nitrogen atmosphere. The resulting mixture was poured into a saturated aqueous sodium bicarbonate solution and the resulting mixture was subjected to extraction with diethyl ether. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried over sodium sulfate and thereafter concentrated under reduced pressure, to obtain the desired compound (10.5 g).

reactant | biphenyl-4-yl-oxo-acetic acid methyl ester | COC(C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C15H12O3
reactant | triethyl orthoformate | 43 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | Biphenyl-4-yl-dimethoxy-acetic acid methyl ester | 10.5 g | COC(C(OC)(OC)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C17H18O4
